US06784319B2
Synthesis of a Mixture of Tramadol and its Corresponding Trans Isomer in a Ratio of About 92:8
To 230 mL of anhydrous tetrahydrofuran (THF) cooled to −60° C. was added 9.36 g of n-butyl lithium (0.123 mol, 10 M solution in hexanes). The resulting yellow solution was stirred for 10 min and then 23.06 g of neat 3-bromoanisole (0.34 mol) was added dropwise with stirring. The resulting white suspension was stirred for 15 min. To the white suspension was then added dropwise, over a 4 hour period, a solution of 19.14 g of (±) 2-((dimethylamino)methyl)cyclohexanone (0.123 mol) and 400 mg of iron (III) chloride (2.5 mmol, 2 mol percent) in 190 mL of anhydrous THF at −60° C. The resulting reaction mixture was quenched with water, the organic phase was separated, the aqueous phase was extracted twice with diethyl ether and the diethyl ether extracts were combined. The combined ether extracts were dried over sodium sulfate, filtered, and the solvent was removed under reduced pressure to provide 37.77 g (0.084 mol, 68% yield) of the above-titled mixture in a ratio of 91.9:8.1 as determined using HPLC.

reactant | n-butyl lithium | 0.123 mol, 10 M, 9.36 g | C(CCC)[Li]
reactant | 3-bromoanisole | 0.34 mol, 23.06 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | (±) 2-((dimethylamino)methyl)cyclohexanone | 0.123 mol, 19.14 g | CN(C)CC1C(CCCC1)=O | C9H17NO
solvent | THF | 190 mL | O1CCCC1 | C4H8O
catalyst | iron (III) chloride | 2.5 mmol, 400 mg | [Fe](Cl)(Cl)Cl
solvent | tetrahydrofuran | 230 mL | O1CCCC1 | C4H8O
product | Tramadol | 0.084 mol, 37.77 g, 68% yield | CN(C)CC1CCCCC1(C2=CC=CC(=C2)OC)O | C16H25NO2
